US04405356
PREPARATION OF P-TOLUENE SULFINYL CHLORIDE
24.6 g (0.1 mol) of freshly recrystallized p-tolyldisulfide was slurried in 18.8 ml (0.2 mol) of distilled acetic anhydride in an oven-dried 250 ml sidearm round bottom flask with magnetic stirring bar and a stopcock connector. The resulting reaction composition was cooled to -10° to -20° C. in a water-ethylene glycol-dry ice bath. All transfers and reactions in this example occurred under nitrogen blanket. About 7 ml of chlorine was condensed at -78° C. and transferred by cannula over 15 minutes to the reaction composition. The reaction composition became a clear bright orange solution and then the orange color began to fade. Additional chlorine was added in 1 ml portions until the solution turned to a greenish-yellow color. The solution was stirred at -10° C. for 1 hour and acetyl chloride was distilled off under reduced pressure employing a water aspirator while allowing the solution to return to room temperature. Bubbling of the solution ceased after about 45 minutes and the solution was connected to a vacuum pump for 1/2 hour at room temperature and then hearted to about 40° C. under vacuum for 20 minutes to yield 34.5 g of a green liquid, p-toluene sulfinyl chloride. Thereafter, 34.43 g of p-toulene sulfinyl chloride were diluted into a 50 ml solution in toluene and stored under a nitrogen blanket for further use.

reactant | sulfinyl chloride | 34.43 g | S(=O)(Cl)Cl | Cl2OS
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | P-TOLUENE SULFINYL CHLORIDE | CC1=CC=CC=C1S(=O)Cl | C7H7ClOS
